US04914207
1. 4-Methyl-5-chloromethylimidazole hydrochloride
A solution of 10 g of 4-methyl-5-hydroxymethylimidazole hydrochloride in 25 ml of thionyl chloride was allowed to stir at room temperature overnight. The crystalline product was filtered, washed with chloroform and dried, 11 g.

reactant | 4-methyl-5-hydroxymethylimidazole hydrochloride | 10 g | Cl.CC=1N=CNC1CO
solvent | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-Methyl-5-chloromethylimidazole hydrochloride | Cl.CC=1N=CNC1CCl | InChI=1S/C5H7ClN2.ClH/c1-4-5(2-6)8-3-7-4;/h3H,2H2,1H3,(H,7,8);1H
